US07985751B2
1-[2-(2-Fluorophenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride
To a solution of bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride (0.593 g, 2 mmol) and 2-(2-fluorophenyl)ethanamine (0.278 g, 2 mmol) in dimethylformamide (6 mL) is added anhydrous potassium carbonate (0.829 g, 6 mmol) and sodium iodide (0.599 g, 4 mmol) successively. The reaction mixture is then stirred at 80° C. for 4.5 hours and then cooled to ambient temperature. Water and ethyl acetate are then added to the resultant reaction mixture. The organic layer is separated, washed 3 times with water and once with brine, dried over anhydrous magnesium sulfate, and concentrated. The residue is dissolved in ethanol. To this solution is added 6 N hydrochloric acid drop wise with cooling until pH 3. The resulting solution is maintained at 4° C. overnight. The resultant crystals are collected by filtration and washed with ethanol and ether to give 108 mg of the title compound (17%).

reactant | bis(2-chloroethyl)-(3-phenylpropyl)ammonium chloride | 2 mmol, 0.593 g | [Cl-].ClCC[NH+](CCCC1=CC=CC=C1)CCCl
reactant | 2-(2-fluorophenyl)ethanamine | 2 mmol, 0.278 g | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | potassium carbonate | 6 mmol, 0.829 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4 mmol, 0.599 g | [I-].[Na+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[2-(2-Fluorophenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride | 108 mg, 17% | Cl.Cl.FC1=C(C=CC=C1)CCN1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C21H27FN2.2ClH/c22-21-11-5-4-10-20(21)12-14-24-17-15-23(16-18-24)13-6-9-19-7-2-1-3-8-19;;/h1-5,7-8,10-11H,6,9,12-18H2;2*1H
